US09078864B2
Synthesis of Nα,Nε-dibutanoyllysine
Lysine (1 g, 6.1 mmol) was dissolved in 160 ml tetrahydrofuran(THF)-water (1:1), whereupon butanoic anhydride (2.89 g 18.3 mmol) was added. The solution was kept stirring at room temperature and after 1 h 80 ml of THF was added and after standing overnight sodium carbonate decahydrate was added (5.23 g, 18.3 mmol). After this mixture was stirred for ca 30 min another portion of butanoic anhydride (2.89 g 18.3 mmol) was added and the mixture was again kept stirring overnight. The mixture was saturated with sodium chloride and made acidic with concentrated HCl (to about pH 1). The top layer was separated and the solvent was evaporated. To the residue 400 ml 0.125 M NaOH (aq) and 100 ml THF was added. After ca 15 the THF was evaporated and the solution was washed with chloroform (2×200 ml). The aqueous phase was then acidified with 7 ml conc. HCl (aq) and extracted with chloroform-methanol (4:1, 2×250 ml). The organic phase was dried with sodium sulfate, filtered and concentrated under reduced pressure. The remaining butanoic acid was removed by repeated evaporation of added formic acid-water (3:1) under reduced pressure to give 1.32 g (79%) of product. 1H NMR (CDCl3), 0.92-0.98 (m, 6H; 2×CH3), 1.3-1.48 (m, 2H; CH2), 1.54 (qv, 2H, J=6.8 Hz; CH2), 1.62-1.70 (m, 4H; 2×CH2), 1.75-1.83 (m, 2H; CH2), 1.85-1.95 (m, 2H; CH2), 2.18 (t, 2H, J=7.3 Hz; CH2), 2.25 (t, 2H, J=6.2 Hz; CH2), 3.17-3.22 (m, 1H; ε-CH2a), 3.31-3.37 (m, 1H; ε-CH2b), 4.52-4.58 (m, 1H; αCH), 6.08 (bs, 1H; ε-NH), 6.86 (d, 1H, J=7.3 Hz; α-NH).

reactant | Lysine | 6.1 mmol, 1 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | butanoic anhydride | 18.3 mmol, 2.89 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sodium carbonate decahydrate | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
reactant | butanoic anhydride | 18.3 mmol, 2.89 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sodium chloride | [Cl-].[Na+]
reactant | HCl | pH 1 | Cl | ClH
reactant | THF | 80 ml | C1CCOC1 | C4H8O
product | Nα,Nε-dibutanoyllysine | 1.32 g, 79% | C(CCC)(=O)N[C@@H](CCCCNC(CCC)=O)C(=O)O | C14H26N2O4
